US06969710B2
2-Methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and o-toluenesulfonylchloride (46 mg, 0.239 mmol) according to general method 3 to give before Boc-deprotection 160 mg of a purple solid. MS (posES-FIA) m/z=Found: 487.1. Calcd 487.14. 1H-NMR δ 7.74-7.16 (m, 8H), 6.78-6.52 (m, 4H), 3.27-3.16 (m, 8H), 2.58 (s, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | o-toluenesulfonylchloride | 0.239 mmol, 46 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-Methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide | CC1=C(C=CC=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C23H26N4O4S2
